US06001997
(b) (3R,4R)-3-Phenoxyacetamido-4-[(RS)-tetrahydro-furan-2-ylcarbonylmethylthio]azetidin-2-one
(RS)-2-Chloroacetyltetrahydrofuran (2.46 g, 16.5 mmol), (3R,4R)-4-mercapto-3-phenoxyacetamidoazetidin-2-one (4.157 g, 16.5 mmol) and potassium carbonate (2.227 g 16.5 mmol) in DMF (10 ml) were stirred for 2 h, diluted with ethyl acetate, washed twice with water and with brine, dried concentrated and flash chromatographed eluting with 40, 30, 20, 10 and 0% hexane in ethyl acetate to give the title compound as a foam (3.547 g, 59%); νmax (CH2Cl2) 3405, 1785, 1693, 1520, 1496 and 1240 cm-1 ; δ(CDCl3, 250 MHz) 1.9-2.3 (4 H, m), 3.42 and 3.62, 3.46 and 3.56 (together 2 H, 2 ABq, J15.8 Hz, 15.4 Hz), 3.85-4.0 (2 H, m), 4.4-4.5 (1 H, m), 4.58 (2 H, s), 5.01, 5.04 (together 1 H, 2 d, J4.7 Hz), 5.59 (1 H, dd, J 8.8, 4.5 Hz) 6.62, 6.68 (together 1 H, 2 s), 6.9-7.4 (5 H, m) and 7.45, 7.47 (together 1 H, 2 d, J8.8 Hz). [Mass spectrum: M+ (364)].

reactant | (RS)-2-Chloroacetyltetrahydrofuran | 16.5 mmol, 2.46 g | ClCC(=O)C1OCCC1 | C6H9ClO2
reactant | (3R,4R)-4-mercapto-3-phenoxyacetamidoazetidin-2-one | 16.5 mmol, 4.157 g | S[C@@H]1[C@@H](C(N1)=O)NC(COC1=CC=CC=C1)=O | C11H12N2O3S
reactant | potassium carbonate | 16.5 mmol, 2.227 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3R,4R)-3-Phenoxyacetamido-4-[(RS)-tetrahydro-furan-2-ylcarbonylmethylthio]azetidin-2-one | 3.547 g, 59% | O(C1=CC=CC=C1)CC(=O)N[C@@H]1C(N[C@@H]1SCC(=O)C1OCCC1)=O | C17H20N2O5S
